2188-01-06 11:38:00 Physician Attending Progress Note
Chief Complaint: SOB/hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo female initially admitted [**12-28**] with
   hypothermia/bradycardia/hypotension- possible septic source but
   recovered, did become very volume overloaded during that time.
   Sent to floor [**1-1**]- continued discussions re: HD with renal.
   Transiently developed coagulopathy requiring heme consult which mostly
   improved.
   3 triggers for resp distress with worsening volume overload
   Therapeutic thoracentesis [**1-4**]: 750 cc transudative fluid removed with
   transient improvement but with recurrent desats- 7.39/45/53.
   CXR: some reaccumulation of fluid
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   lasix 160 mg IV BID
   Changes to medical and family history:
   idiopathic dilated CM: dilated RV, n'l LV 50-55%
   Chronic kidney disease
   DM
   PVD with multiple angioplasties/stents
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-6**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 77 (70 - 81) bpm
   BP: 134/45(66) {134/45(66) - 154/58(82)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             808 mL
   PO:
             340 mL
   TF:
   IVF:
   468 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,100 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97% on 80% FM
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   decreased bs lower half left side, rales right base
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: right toe amputations
   Skin:  normal turgor, no rashes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   7.7 g/dL
   254 K/uL
   90 mg/dL
   3.3 mg/dL
   24 mEq/L
   3.4 mEq/L
   92 mg/dL
   112 mEq/L
   152 mEq/L
   24.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
   WBC
   14.9
   Hct
   24.0
   Plt
   254
   Cr
   3.3
   Glucose
   90
   Other labs: PT / PTT / INR:15.9/35.0/1.4, Ca++:8.6 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Unable to find cardiac cath report, but references in prior clinic
   notes to elevated left and right heart filling pressures
   Assessment and Plan
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
   60 yo female with CRI, DM, HTN previously with worseing pleural
   effusions, and worsening hypoxia. CXR
s show some reaccumulation of
   pleural fluid.
   1.       Increase carvedilol for improved control of diatstolic
   dysfunction, track down cardiac cath report
   2.       [**Month (only) 8**] benefit from lasix gtt but will discuss with nephrology,
   as well as timing of HD
   3.       PE eval would be preferable given echo, but abnormal baseline
   CXR and impaired renal function will make further testing problem[**Name (NI) 555**]-
   will d/w renal
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: boots, hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2188-01-07 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -lasix drip started for diuresis and titrated up to max of 20
   overnight.
   -bled profusely from SC heparin shot; stopped heparin and put on
   TEDS/pneumoboots.
   -renal recs: would like to start dialysis, but not sure that will fix
   her hypoxia.  also, think that hypernatremia is strange if we think she
   is volume overloaded.  She may be intravascularly depleted.  patient
   refused dialysis yesterday, but per nursing said she agreed to it
   today.
   This AM, patient reports that she is amenable to dialysis, although she
   would prefer to avoid it.  She denies symptoms from her hypoxia and has
   minimal appetite.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2188-1-6**] 12:36 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-6**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-7**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 73 (63 - 80) bpm
   BP: 154/58(82) {134/44(66) - 154/62(84)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 58.5 kg
             Total In:
                                                                  1,687 mL
                                                                    134 mL
   PO:
                                                                    515 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    775 mL
   Urine:
                                                                  1,895 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                   -641 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   GENERAL:  awake and alert, Pleasant woman who appears older than stated
   age
   HEENT: + conjunctival pallor. No scleral icterus. PERRL/EOMI. MMM. OP
   clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. +Soft systolic murmur.
   LUNGS:  Decreased breath sounds at the bases with scattered crackles at
   bases b/l.  No wheeze.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES:  Left foot s/p amputation of all toes.  s/p first toe
   amputation on the right with some eschar.  No fluctuance.
   Labs / Radiology
   292 K/uL
   7.1 g/dL
   108 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   88 mg/dL
   107 mEq/L
   147 mEq/L
   22.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
   WBC
   14.9
   13.6
   Hct
   24.0
   22.2
   Plt
   254
   292
   Cr
   3.3
   3.3
   3.1
   Glucose
   90
   108
   Other labs: PT / PTT / INR:15.1/33.9/1.3, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**1-6**]: Pulmonary edema has slightly improved in the
   interval and is now
   mild to moderate in severity. Bilateral pleural effusions have also
   slightly
   decreased in size. Otherwise no relevant changes since recent study.
   No new imaging today.
   Microbiology: Pleural fluid [**1-4**]: gram stain showed no organisms or
   PMNs.  Cx pending
   Assessment and Plan
   60yo woman with CKD, diastolic dysfunction, and DM who is being
   transferred to the ICU with hypoxia in the setting of persistent b/l
   pleural effusions.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch.  Patient has significant A-a gradient on prior ABGs.  Minimal
   volume overload from bilateral pleural effusions do not entirely
   account for her oxygen requirement.
   - Will get ABG on minimal O2 and maximal O2 to better quantify gradient
   - Lung imaging; either V/Q scan or Chest CT today to evaluate for PE or
   AVM as possible sources of hypoxia -> patient may need systemic
   anticoagulation if PE present.
   - continue diuresis with lasix drip for now as making some headway and
   Cr trending down
   - low threshold to start Abx if she develops fever, hypothermia, or
   cough
   - optimize management of diastolic dysfunction as below
   # Chronic Kidney Disease:  Her Cr during this hospital stay has
   essentially been at her baseline, yet she is significantly volume
   overloaded.  Cr now trending down with diuresis; per renal patient will
   likely need dialysis in the next few days but no emergent need for
   dialysis today.
   - touch base with renal regarding access for dialysis.
   - continue sevelamer
   # Diastolic dysfunction:
   Patient has been reported to have dilated cardiomyopathy in the past,
   but it is her right ventricle and not her left that is dilated on Echo,
   and her EF is relatively preserved.  She also has PAD, which is a
   coronary equivalent.
   - carvedilol was increased to 37.5 [**Hospital1 **] for improved rate control ->
   will continue to uptitrate today
   - if BP remains elevated, would add further antihypertensives
   - continue amlodipine
   .
   # Anemia:  baseline Hct 25-27, current hct 22.  Patient has had recent
   procedures and has been slowly trending down.  Fe studies consistent
   with chronic disease.
   - continue epogen
   - check PM Hct
   - guaiac stools
   - would hold off on transfusion until dialysis if patient to be
   initiated within next several days
   # Coagulopathy:
   PTT and INR slightly elevated (40 and 1.3).  Per review of notes,
   patient's inhibitor screen is negative, UPEP is still pending.  SPEP
   was negative.  Patient may bleed from uremic platelets rather than
   coagulopathy.
   - appreciate hem/onc recs
   - f/u UPEP
   - monitor coags
   - nasal spray for nose bleed prevention
   .
   # Depression:
   - Continue fluoxetine
   - patient currently declining SW communication
   - Started MVI and thiamine
   .
   # Hypernatremia: Likely from poor free water intake.  Slightly improved
   this AM after diuresis.
   - encourage PO water intake
   - Check PM lytes, if rising will stop lasix drip
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
    .
   # DM:
   - continue lantus and SSI
   # Hypothyroidism:   continue home levothyroxine
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  Insulin SS and lantus
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and TEDS (heparin SC stopped [**2-12**] bleeding)
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments:  [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: :  [**Hospital Unit Name 4**] for now

2188-01-07 10:09:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Hypothermia
   Pleaural Effusions
   Chronic Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Lasix gtt started yesterday--moved to 400cc negative in fluid balance
   over yesterday
   -Dialysis planned for today
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2188-1-6**] 12:36 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-6**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-1-7**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 79 (63 - 79) bpm
   BP: 156/62(86) {134/44(66) - 158/62(86)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 58.5 kg
             Total In:
                                                                  1,687 mL
                                                                    302 mL
   PO:
                                                                    515 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,172 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                  1,175 mL
   Urine:
                                                                  1,895 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                   -873 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
patient with good
   brisk responses
she has intact motor strength in upper and lower
   extremities
she has decreased reflexes noted bilaterall,  No asterixis
   apprecitated, EOMI
no nystagmus
   Labs / Radiology
   7.1 g/dL
   292 K/uL
   108 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   88 mg/dL
   107 mEq/L
   147 mEq/L
   22.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
   WBC
   14.9
   13.6
   Hct
   24.0
   22.2
   Plt
   254
   292
   Cr
   3.3
   3.3
   3.1
   Glucose
   90
   108
   Other labs: PT / PTT / INR:15.1/33.9/1.3, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: Pleural Fluid-
   -Transudative Fluid-
   TP-1.4 (6.1)
   LDH-59 (227)
   Assessment and Plan
   60 yo female with history of chronic renal failure now admitted to ICU
   with hypoxemia/hypothermia and treated for pneumonia and now with
   persistent hypoxemia despite tap of pleural fluid has returned to
   [**Location 29**] ICU.  Her initial presentation has been confusing as to single
   etiology with hypothermia and hypoxemia dominating picture.  The
   hypotermia has resolved but hypoxemia has persisted in the setting of
   bilateral pleural effusion.
   1)Hypoxemia-patient with significant A-a gradient hypoxemia with
   possibilities in broad categories being
   Shunt
Intra or extrapulmonary is possible
   Dead Space-Patient with reasonable air movement and no evidence of
   obstructive lung disease
   V/Q mismatch
this has been held as the most likely cause but etiology
   of this mis-match is still unclear.
   She needs
ABG on minimal O2 followed by ABG on FIO2 of 1.0
   She needs
Definative imaging of her lungs with evaluate for PE as well
   as AVM as possible source going forward
   Will need to consider treatment for PE given persistence of hypoxemia,
   dilated RV (mild)
   2)Pleural Effusions-These are transudative and bilteral.  Albumin is
   minimally decreased at this time
   -Follow exam and CXR
   -Will follow up liver associated enzymes
   3)Hypothermia-
   -On thyroid replacement
   -Temperature normal
   4)Chronic Renal Failure-
   -Renagel
   -NaHCO3-
   -Dialysis to start in the setting of persistent failure and need for
   imaging with signfiicant risk of further renal compromise
   ICU Care
   Nutrition: PO intake
is limited
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT:Boots and OOB as tolerated
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2188-01-08 07:21:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - patient still hypoxic to 70s on RA
   - CTA: no PEs, worse effusions than initially indicated on CXR
   - renal plan is HD with tunneled cath
   - Cr stable, continuing to diurese
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-8**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 74 (66 - 79) bpm
   BP: 156/65(87) {112/37(63) - 156/88(93)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
             Total In:
                                                                    921 mL
                                                                    101 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    401 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    480 mL
   Urine:
                                                                  2,555 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,634 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: 7.51/41/182/31/9
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   384 K/uL
   7.9 g/dL
   81 mg/dL
   2.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   81 mg/dL
   103 mEq/L
   145 mEq/L
   25.3 %
   12.2 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
   WBC
   14.9
   13.6
   12.2
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   Plt
   [**Telephone/Fax (3) 10735**]
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   Other labs: PT / PTT / INR:15.4/29.4/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   CTA wet read [**1-7**]:
   No evidence of central, segmental or large subsegmental PE. Moderate
   sized
   bilateral pleural effusion and basilar atelectasis, with subtle patchy
   groun
   glass attenuation in the perihilar region suggesting mild pulmonary
   edema.
   There is also mulitple patchy peribronchovascular nodules with
   surrounding
   GGO, predominantly in the RML, this could represent superimposed
   respiratory
   bronchiolitis, or other atypical infections including [**Doctor First Name **] and viral
   infections. Other differentials in the right clinical setting would
   include
   PCP and Sarcoidosis.
   There are borderling mediastinal nodes, which measure upto 7 mm in
   short axis.
   Small fluid in pericardial recess is noted without frank pericardial
   effusion.
[**2188-1-4**] 8:22 pm PLEURAL FLUID      PLEURAL FLUID.
   GRAM STAIN (Final [**2188-1-5**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   Assessment and Plan
   60yo woman with CKD, diastolic dysfunction, and DM who is being
   transferred to the ICU with hypoxia in the setting of persistent b/l
   pleural effusions.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch
shunting.  CTA yesterday was negative for PE, but showed
   significant bilateral pleural effusions and GGO (indicative of
   pulmonary edema).  We will continue treating for volume overload, while
   pursuing other causes for significant and  persistent hypoxia.
   - continue diuresis with lasix drip for now as making some headway and
   Cr trending down
   - appreciate renal recommendations in regard to dialysis
   - low threshold to start Abx if she develops fever, hypothermia, or
   cough
   - optimize management of diastolic dysfunction as below
   # Chronic Kidney Disease:  Her Cr during this hospital stay has
   essentially been at her baseline, yet she is significantly volume
   overloaded.  Cr now trending down with diuresis; per renal patient will
   likely need dialysis in the next few days.
   - renal to place tunneled cath for dialysis
   - continue sevelamer
   # Diastolic dysfunction:
   Patient has been reported to have dilated cardiomyopathy in the past,
   but it is her right ventricle and not her left that is dilated on Echo,
   and her EF is relatively preserved.  She also has PAD, which is a
   coronary equivalent.
   - carvedilol was increased to 37.5 [**Hospital1 **] for improved rate control ->
   will continue to uptitrate as tolerated
   - if BP remains elevated, would add further antihypertensives
   - continue amlodipine
   .
   # Anemia:  baseline Hct 25-27, current hct 25.3.  Iron studies
   consistent with chronic disease.
   - continue epogen
   - check PM Hct
   - guaiac stools
   - would hold off on transfusion until dialysis if patient to be
   initiated within next several days
   # Coagulopathy:
   PTT and INR slightly elevated (40 and 1.3).  Per review of notes,
   patient's inhibitor screen is negative, UPEP is still pending.  SPEP
   was negative.  Patient may bleed from uremic platelets rather than
   coagulopathy.
   - appreciate hem/onc recs
   - f/u UPEP
   - monitor coags
   - nasal spray for nose bleed prevention
   .
   # Depression:
   - Continue fluoxetine
   - patient currently declining SW communication
   - Started MVI and thiamine
   .
   # Hypernatremia: Likely from poor free water intake.  Improved this
   morning.
   - encourage PO water intake
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
    .
   # DM:
   - continue lantus and SSI
   # Hypothyroidism:   continue home levothyroxine
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  Insulin SS and lantus
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and TEDS (heparin SC stopped [**2-12**] bleeding)
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments:  [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: :  [**Hospital Unit Name 4**] for now

2188-01-08 10:01:00 Physician Attending Progress Note
Chief Complaint: Hypothermia
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with continued and persistent hypoxemia in the setting of
   diuresis
   -CTA without PE and with significant bilateral LL consolidations
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2188-1-8**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.2
C (95.4
   HR: 75 (66 - 79) bpm
   BP: 153/62(83) {112/37(63) - 156/88(93)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
             Total In:
                                                                    921 mL
                                                                    134 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    401 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    625 mL
   Urine:
                                                                  2,555 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,634 mL
                                                                   -491 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.51/41/182/31/9
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   384 K/uL
   81 mg/dL
   2.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   81 mg/dL
   103 mEq/L
   145 mEq/L
   25.3 %
   12.2 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
   WBC
   14.9
   13.6
   12.2
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   Plt
   [**Telephone/Fax (3) 10735**]
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   Other labs: PT / PTT / INR:15.4/29.4/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: AG-11
   Imaging: CTA--No PE, substantial bilateral LL consolidations noted with
   effusions bilaterally as well.  Diffuse ground glass noted, small
   nodules noted in mid right lung field, small mediastinal notes noted in
   pre-tracheal and para-aortic area
   Assessment and Plan
   60 yo female with admission for hypoxia and hypothermia now found to
   have persistent and significant hypoxemia.  She has had some
   improvement--although subtle--in FIO2 requirement at rest.  With
   decrease further in O2 or any activity patient with rapid and severe
   desaturations.
   1)CHF-Acute and Diastolic dysfunction noted
   -Lipitor/ASA/PLavix
   -Coreg
   -Negative fluid balance today
   2)Hypoxemia
She has diffuse and profound ground glass opacities,
   micronodular infiltrates as well as pleural effusions and
   consolidations.  We do not see pulmonary vascular disease or evidence
   of obstructive lung disease.
   -Will continue diuresis with Lasix gtt with goal negative as much as is
   tolerated today
   -Will hold on further testing or procedures given need to complete
   diuresis prior to understanding of residual infiltrates
   -OOB to chair and incentive spirometry
   3)Renal Failure-Chronic
likely related to diabetes
   -Lasix gtt
   -Will hold on dialysis for now as diuresis has been effective
   -Appreciate renal input and support
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: OOB to chair
   Stress ulcer: Po intake
   VAP:
   Comments:
   Communication:  Comments:  Patient updated in full
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2188-01-08 13:21:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - patient still hypoxic to 70s on RA
   - CTA: no PEs, worse effusions than initially indicated on CXR
   - renal plan is HD with tunneled cath
   - Cr stable, continuing to diurese
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-8**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 74 (66 - 79) bpm
   BP: 156/65(87) {112/37(63) - 156/88(93)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
             Total In:
                                                                    921 mL
                                                                    101 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    401 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    480 mL
   Urine:
                                                                  2,555 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,634 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: 7.51/41/182/31/9
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   384 K/uL
   7.9 g/dL
   81 mg/dL
   2.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   81 mg/dL
   103 mEq/L
   145 mEq/L
   25.3 %
   12.2 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
   WBC
   14.9
   13.6
   12.2
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   Plt
   [**Telephone/Fax (3) 10735**]
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   Other labs: PT / PTT / INR:15.4/29.4/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   CTA wet read [**1-7**]:
   No evidence of central, segmental or large subsegmental PE. Moderate
   sized
   bilateral pleural effusion and basilar atelectasis, with subtle patchy
   groun
   glass attenuation in the perihilar region suggesting mild pulmonary
   edema.
   There is also mulitple patchy peribronchovascular nodules with
   surrounding
   GGO, predominantly in the RML, this could represent superimposed
   respiratory
   bronchiolitis, or other atypical infections including [**Doctor First Name **] and viral
   infections. Other differentials in the right clinical setting would
   include
   PCP and Sarcoidosis.
   There are borderling mediastinal nodes, which measure upto 7 mm in
   short axis.
   Small fluid in pericardial recess is noted without frank pericardial
   effusion.
[**2188-1-4**] 8:22 pm PLEURAL FLUID      PLEURAL FLUID.
   GRAM STAIN (Final [**2188-1-5**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   Assessment and Plan
   60yo woman with CKD, diastolic dysfunction, and [**Hospital **] transferred to the
   unit in the setting of persistent hypoxia.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch
shunting.  Ddx includes obstructive lung disease, interstitial
   disease, and pulmonary vascular disease.  CTA yesterday was negative
   for PE, but showed significant bilateral pleural effusions and GGO
   (indicative of pulmonary edema).  We will continue treating for volume
   overload, while pursuing other causes for significant and persistent
   hypoxia as we get rid of fluid.
   - continue diuresis with lasix drip for now as making some headway and
   Cr trending down
   - appreciate renal recommendations in regard to dialysis for volume
   overload.
   # Chronic Kidney Disease:  Creatinine trending down despite diuresis.
   - Continue to trend
   - Continue sevelamer
   # Diastolic dysfunction:
   Billed as having dilated cardiomyopathy, although ECHO does not support
   this diagnosis.
   - carvedilol was increased to 37.5 [**Hospital1 **] for improved rate control ->
   will continue to uptitrate as tolerated
   - if BP remains elevated, would add further antihypertensives
   - continue amlodipine
   .
   # Anemia:  baseline Hct 25-27, current hct 25.3.  Iron studies
   consistent with chronic disease.
   - continue epogen
   - guaiac stools
   # Coagulopathy:  Hematology consulted for elevated PT/PTT and INR.
   Mixing study was negative.  Coags trending back toward normal.  We will
   continue to monitor.
   .
   # Depression:
   - Continue fluoxetine
   - patient currently declining SW communication
   - Started MVI and thiamine
   .
   # Hypernatremia: Likely from poor free water intake.  Improved this
   morning.
   - encourage PO water intake
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
    .
   # DM:
   - continue lantus and SSI
   # Hypothyroidism:   continue home levothyroxine
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  Insulin SS and lantus
   Lines:
   18 Gauge - [**2188-1-6**] 12:35 AM
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and TEDS (heparin SC stopped [**2-12**] bleeding)
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments:  [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: :  [**Hospital Unit Name 4**] for now
   ------ Protected Section ------
   Physical Exam from [**2188-1-8**] (disregard PE from original body of note
   from [**2188-1-8**]):
   General:  Well appearing, looks more comfortable, sitting up and eating
   breakfast
   Chest: Moderate air movement, decreased breath sounds at bases
   Abdomen: Soft, non-tender, non-distended,
   Extremities: +popliteal pulses, right foot
   ------ Protected Section Addendum Entered By:[**Name (NI) 635**] [**Last Name (NamePattern1) 1297**], MD
   on:[**2188-1-8**] 13:18 ------
   ------ Added by auto log oyt ------
   Extremities: +politeal pulses, right foot bandage clean, dry, intact;
   left foot covered by sock
   ------ Protected Section Addendum Entered By:[**Name (NI) 635**] [**Last Name (NamePattern1) 1297**], MD
   on:[**2188-1-8**] 13:21 ------

2188-01-09 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Continued to have poor urine output throughout the day.  Lasix drip
   increased to 20mg/hour and metolazone 2.5mg added, drip stopped around
   3 am, because only putting out about 10 cc/hr
   --Patient continued to have loose stools, and has an angry-looking rash
   on her bottom.  (Got Desitin from distribution)
   --Continues to desat but feels well
   This AM, reports: Feeling well, breathing comfortable.  Feeling very
   frustrated with lack of progress.  No appetite.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-9**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 66 (61 - 78) bpm
   BP: 143/54(77) {121/36(58)
 153/63} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
             Total In:
                                                                  1,112 mL
                                                                     60 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    392 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                     30 mL
   Urine:
                                                                    785 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    327 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool at 60% FiO2
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   GENERAL:  awake and alert, Pleasant woman who appears older than stated
   age
   HEENT: + conjunctival pallor. No scleral icterus. PERRL/EOMI. MMM. OP
   clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. +Soft systolic murmur.
   LUNGS:  Decreased breath sounds at the bases with scattered crackles at
   bases b/l.  No wheeze.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES:  Left foot s/p amputation of all toes.  s/p first toe
   amputation on the right with some eschar.  No fluctuance.
   Labs / Radiology
   409 K/uL
   7.5 g/dL
   95 mg/dL
   3.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   80 mg/dL
   99 mEq/L
   141 mEq/L
   23.2 %
   10.1 K/uL
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   Plt
   [**Telephone/Fax (3) 10752**]09
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   Other labs: PT / PTT / INR:16.2/29.3/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CTA chest:
   1. No evidence of pulmonary embolism.
   2. Multifocal peribronchial opacities in right lung suggestive of
   evolving
   infectious bronchopneumonia.
   3. Moderate bilateral pleural effusions, and associated bibasilar
   atelectasis, left greater than right.
   4. Slight anterior wedging of a lower thoracic vertebral body, either
   T11, or
   T12.
   No CXR this AM
   Microbiology: [**1-4**] pleural fluid: Gram stain neg, Cx pending
   [**1-7**] C diff neg
   Assessment and Plan
   60yo woman with CKD, diastolic dysfunction, and [**Hospital **] transferred to the
   unit in the setting of persistent hypoxia.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch
shunting.  Ddx includes obstructive lung disease, interstitial
   disease, and pulmonary vascular disease.  CTA yesterday was negative
   for PE, but showed significant bilateral pleural effusions and
   compressive atelectasis, as well as nodules/interstitial changes that
   could be consistent with atypical infection versus sarcoid .  We will
   continue treating for volume overload, while pursuing other causes for
   significant and persistent hypoxia as we get rid of fluid.  Lasix drip
   turned off as patient not putting out urine; not sure if [**2-12**] renal
   decline from contrast versus patient now dry.
   - stop diuresis given decreased UOP
   - will place IR guided tunnelled HD line today with plan for dialysis
   initiation tomorrow
   - appreciate renal recommendations
   # Chronic Kidney Disease:  Creatinine was trending down with diuresis.
   Now increased, likely [**2-12**] contrast load.
   - Continue to trend
   - Continue sevelamer
   # Diastolic dysfunction:
   Billed as having dilated cardiomyopathy, although ECHO does not support
   this diagnosis.
   - carvedilol was increased to 37.5 [**Hospital1 **] for improved rate control ->
   will continue to uptitrate as tolerated
   - if BP remains elevated, would add further antihypertensives
   - continue amlodipine
   .
   # Anemia:  baseline Hct 25-27, current hct 23.  Iron studies consistent
   with chronic disease.
   - continue epogen
   - guaiac stools
   # Coagulopathy:  Hematology consulted for elevated PT/PTT and INR.
   Mixing study was negative.  Coags trending back toward normal.  We will
   continue to monitor.
   .
   # Depression:
   - Continue fluoxetine
   - patient currently declining SW communication
   - Started MVI and thiamine
   .
   # Hypernatremia: Likely from poor free water intake.  Improved this
   morning.
   - encourage PO water intake
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
    .
   # DM:
   - continue lantus and SSI
   # Hypothyroidism:   continue home levothyroxine
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  insulin SS and lantus
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and TEDS (heparin SC stopped [**2-12**] bleeding)
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments: [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: [**Hospital Unit Name 4**] for now

2188-01-09 11:13:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Lasix gtt stopped with patient having substantial decrease in urine
   output
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2188-1-9**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 77 (61 - 78) bpm
   BP: 150/59(81) {121/36(58) - 153/90(95)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
             Total In:
                                                                  1,112 mL
                                                                     60 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    392 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                     55 mL
   Urine:
                                                                    785 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    327 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   409 K/uL
   95 mg/dL
   3.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   80 mg/dL
   99 mEq/L
   141 mEq/L
   23.2 %
   10.1 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   Plt
   [**Telephone/Fax (3) 10752**]09
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   Other labs: PT / PTT / INR:16.2/29.3/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CTA--no per--muti-peribronchial nodular infiltrates,
   [**Hospital1 **]-basilar atelectasis.
   Assessment and Plan
   60 yo female with admission with significant hypoxemia following
   hypothermia.  This may well be related to acute infectious process
   initially and patient now with some significant and persistent volume
   overload in the setting of poor urine output.
   1)Hypoxemia-We have attributed this to pulmonary parenchymal
   infiltrates with some ground glass and nodular opacities as well as
   [**Hospital1 **]-basilar collapse and effusions leading to poor V/Q matching.
   -Will continue with Incentive Spirometry
   -Will continue with chest PT
   -Will continue to work to negative fluid balance but we do have
   limitation in terms of renal function
   -Will repeat CXR in am and would be of interest to follow puomonary
   infiltrates to conclusion
   -Do have to complete Rx with ABX
   2)RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)-
   -Will continue to follow exam going forward
   -No further diuresis at this time
   -Will continue to discuss with renal timing for diuresis
   -Patient with poor po intake, nausea and dry heaves, concerning for
   uremia signs
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
   -Patient with likely euvolemia at this point with maximum diuresis
   effected
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2188-01-10 07:55:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   -IR tunnelled HD cath placed on the right
   -PPD placed, hep panel, PTH ordered (needs for outpatient dialysis)
   -IV iron given one dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  None.
   Flowsheet Data as of  [**2188-1-10**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 73 (60 - 77) bpm
   BP: 136/46(69) {116/44(66) - 150/64(83)} mmHg
   RR: 15 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
                  Total In:
                                                                    160 mL
                  PO:
                  TF:
   IVF:
                                                                    160 mL
   Blood products:
   Total out:
                                                                    101 mL
                                                                     10 mL
   Urine:
                                                                    101 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     59 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% on 6lpm
   ABG: ///29/
   Physical Examination
   General:  NAD, still was flat affect
   Chest: Decreased lung sounds at bases, crackles on right
   Cardiac:  RRR, normal S1 and S2
   Abdomen: +BS, soft, non-tender, non-distended
   Extremities: Right foot is bandaged, left foot covered by sock
   Labs / Radiology
   445 K/uL
   7.5 g/dL
   107 mg/dL
   4.9 mg/dL
   29 mEq/L
   4.5 mEq/L
   81 mg/dL
   102 mEq/L
   142 mEq/L
   23.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
                            [**2188-1-10**]  05:25 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   9.1
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   23.1
   Plt
   [**Telephone/Fax (3) 10752**]09
   445
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   4.9
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   107
   Other labs: PT / PTT / INR:15.0/32.1/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Microbiology: [**2188-1-4**] 8:22 pm PLEURAL FLUID      PLEURAL FLUID.
      GRAM STAIN (Final [**2188-1-5**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Final [**2188-1-8**]):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   C.diff: negative
   Blood culture: negative
   Urine culture: negative
   60yo woman with CKD, diastolic dysfunction, and [**Hospital **] transferred to the
   unit in the setting of persistent hypoxia.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch
shunting.  CTA showed significant bilateral pleural effusions
   and compressive atelectasis, as well as ground glass opacities and
   micronodular infiltrates.  Patient had been on lasix drip, but urine
   output has been abysmal.  Decision was made to go for dialysis.
   - IR-guided tunneled HD catheter placed yesterday, dialysis today (1
   liter taken off)
   - Appreciate renal recommendations
   - Repeat chest imaging as more fluid is taken off
   - Encourage OOB to chair
   - Incentive spirometer
   - ABG to assess oxygenation
   # Chronic Kidney Disease:  Although creatinine initially trended down
   with diuresis, it
s going up now (?contrast induced nephropathy).
   - HD today
   - Continue sevelamer (phosphate binder)
   - Continue to trend cr and electrolytes
   - Renal following
   - Trend creatinine
   # Diastolic dysfunction: Rt sided dilated cardiomyopathy, normal EF.
   - Statin/ASA/plavix
   - Coreg was increased to 37.5 [**Hospital1 **] for improved rate control; continue
   at current dose
   - Amlodipine held for dialysis
   .
   # Anemia:  baseline Hct 25-27, current hct 23.  Iron studies consistent
   with chronic disease.
   - One dose of IV iron given yesterday as per renal
   - One unit PRBCs today during dialysis
   - continue epogen
   .
   # Depression:
   - Continue fluoxetine
   - Appreciate SW recommendations
   - Started MVI and thiamine
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
   .
   # DM:
   - continue insulin sliding scale
   # Hypothyroidism:   continue home levothyroxine
   # PPD:  Read on [**2187-1-11**]
   # Discontinue foley.
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and [**Male First Name (un) **]; restart heparin subcu [**Hospital1 **]
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments: [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: [**Hospital Unit Name 4**] for now

2188-01-10 10:35:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2188-1-9**] 07:00 PM
   placed at IR at 1400 this afternoon, not documented by previous RN
   HD to start today
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2188-1-10**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 68 (60 - 77) bpm
   BP: 142/51(74) {116/44(66) - 145/64(83)} mmHg
   RR: 16 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
                  Total In:
                                                                    160 mL
                                                                     60 mL
   PO:
                  60 mL
   TF:
   IVF:
                                                                    160 mL
   Blood products:
   Total out:
                                                                    101 mL
                                                                     15 mL
   Urine:
                                                                    101 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     59 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   445 K/uL
   107 mg/dL
   4.9 mg/dL
   29 mEq/L
   4.5 mEq/L
   81 mg/dL
   102 mEq/L
   142 mEq/L
   23.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
                            [**2188-1-10**]  05:25 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   9.1
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   23.1
   Plt
   [**Telephone/Fax (3) 10752**]09
   445
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   4.9
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   107
   Other labs: PT / PTT / INR:15.0/32.1/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   patient with significant hyoxemia in the setting of volume overload and
   bilteral pleural effusions with dominant findings of bilateral lower
   lobe collapse.  She did not have evidence of PE or acute ongoing
   pneumonia and no suggestion of extrapulmonary shunting.  With
   aggressive PT and mobilization and re-recruitment of lower lobes we
   have seen substantial improvement in oxygenation.
   1)Hypoxemia-Substantial improvement with above measures.  Will continue
   with
   -OOB to chair
   -OOB and ambulation
   -Incentive Spriometry to continue 10x/hr while awake
   2)Renal Failure- CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)-
   -Dialysis today
   -Continue to provide support for electrolyte abnormalities
   -Will transfuse one unit today
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Dialysis Catheter - [**2188-1-9**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :[**Hospital **]
Transfer to floor
   Total time spent: 33 minutes

2188-01-11 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had HD without event, received 1 unit PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-11**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 73 (64 - 83) bpm
   BP: 145/51(72) {114/48(61) - 166/76(97)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
                  Total In:
                                                                    150 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,165 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General:  NAD, very interactive, positive, friendly
   Chest: Decreased lung sounds at bases, crackles on right>L, no wheezes
   or rhonchi
   Cardiac:  RRR, normal S1 and S2
   Abdomen: +BS, soft, non-tender, non-distended
   Extremities: Right foot is bandaged, left foot s/p amputated toes
   Labs / Radiology
   443 K/uL
   9.4 g/dL
   84 mg/dL
   4.4 mg/dL
   30 mEq/L
   4.5 mEq/L
   48 mg/dL
   103 mEq/L
   143 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
                            [**2188-1-10**]  05:25 AM
                             [**2188-1-11**]  05:44 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   9.1
   10.7
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   23.1
   28.2
   Plt
   [**Telephone/Fax (2) 10789**]
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   4.9
   4.4
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   107
   84
   Other labs: PT / PTT / INR:15.4/29.8/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   60yo woman with CKD, diastolic dysfunction, and [**Hospital **] transferred to the
   unit in the setting of persistent hypoxia.
   # Hypoxia:  Unclear cause of hypoxia, but most likely from V/Q
   mismatch
shunting.  CTA showed significant bilateral pleural effusions
   and compressive atelectasis, as well as ground glass opacities and
   micronodular infiltrates.  Patient had been on lasix drip, but given
   poor urine output the decision was made to go for dialysis.
   - IR-guided tunneled HD catheter placed and dialysis was successfully
   undertaken yesterday with (1 liter taken off)
   - Appreciate renal recommendations
   - CXR this AM looks like decreased pleural effusions bilaterally
   - Encourage OOB to chair
   - Incentive spirometer
   # Chronic Kidney Disease:  Although creatinine initially trended down
   with diuresis, it
s going up now (?contrast induced nephropathy).
   - Next HD tomorrow
   - Continue sevelamer (phosphate binder)
   - Continue to trend cr and electrolytes
   - Renal following
   - Trend creatinine
   # Diastolic dysfunction: Rt sided dilated cardiomyopathy, normal EF.
   - Statin/ASA/plavix
   - Coreg was increased to 37.5 [**Hospital1 **] for improved rate control; continue
   at current dose
well rate controlled at 69 in sinus this AM
   - continue amlodipine today
   .
   # Anemia:  baseline Hct 25-27, current hct 28 after 1unit PRBC at HD.
   Iron studies consistent with chronic disease.
   - One dose of IV iron given as per renal
   - One unit PRBCs given during HD
   - continue epogen
   .
   # Depression:
   - Continue fluoxetine
   - Appreciate SW recommendations
   - Started MVI and thiamine
   - psych consult on floor at patient
s request
   .
   # Peripheral artery disease:
   - monitor wounds
   - continue ASA, plavix
   .
   # DM:
   - continue insulin sliding scale
   # Hypothyroidism:   continue home levothyroxine
   # PPD:  Read on [**2187-1-11**]
   # Discontinue foley.
   .
   #Dispo: Call out to floor today.
   ICU Care
   Nutrition: Regular, low Na diet
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Prophylaxis:
   DVT: pneumoboots and [**Male First Name (un) **]; heparin subcu [**Hospital1 **]
   Stress ulcer: none
   VAP:
   Comments: bowel regimen with colace and senna, pain management with
   tylenol prn
   Communication:  Comments: [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of attorney,
   [**Telephone/Fax (3) 10585**]
   Code status: Full Code
   Disposition: [**Hospital Unit Name 4**] for now

2188-01-11 12:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new symptoms.  Supplimental oxygen requirements continue to decline.
   Tolerated hemodialysis yesterday.
   Denies chest pain, abd pain, dyspnea.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-1-11**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 65 (59 - 75) bpm
   BP: 141/60(81) {126/48(61) - 166/75(97)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 58.5 kg
                  Total In:
                                                                    150 mL
                                                                    120 mL
   PO:
                                                                    150 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,165 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: ), Right tunneled dialysis catheter
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   443 K/uL
   84 mg/dL
   4.4 mg/dL
   30 mEq/L
   4.5 mEq/L
   48 mg/dL
   103 mEq/L
   143 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                            [**2188-1-6**]  03:51 AM
                            [**2188-1-6**]  12:42 PM
                            [**2188-1-7**]  01:30 AM
                            [**2188-1-7**]  01:04 PM
                            [**2188-1-7**]  02:27 PM
                            [**2188-1-7**]  03:16 PM
                            [**2188-1-8**]  04:37 AM
                            [**2188-1-9**]  04:32 AM
                            [**2188-1-10**]  05:25 AM
                             [**2188-1-11**]  05:44 AM
   WBC
   14.9
   13.6
   12.2
   10.1
   9.1
   10.7
   Hct
   24.0
   22.2
   23
   23.0
   25.3
   23.2
   23.1
   28.2
   Plt
   [**Telephone/Fax (2) 10789**]
   Cr
   3.3
   3.3
   3.1
   3.0
   2.9
   3.8
   4.9
   4.4
   TCO2
   34
   34
   Glucose
   90
   108
   141
   81
   95
   107
   84
   Other labs: PT / PTT / INR:15.4/29.8/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   60 yof respiratory distress and hypoxemia, attributed to CHF in context
   of anuric renal failure.
   RESPIRATORY DISTRESS -- attributed to hypoxemia and CHF (volume
   overload).  Much improved, esp. following dialysis.  Continue to
   monitor RR, SaO2.
   HYPOxEMIA -- attributed to CHF in context of volume overload.
   Improved.  Monitor SaO2, maintain SaO2 >90%.
   CHF -- likely diastolic dysfunction (LVH).  Consider echo to assess
   diastolic and systolic function, valvular heart disease.
   RENAL FAILURE -- chronic, with progressive decompensation.  Now on
   hemodialysis.  Continue per Renal HD schedule.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-1-6**] 12:35 AM
   Dialysis Catheter - [**2188-1-9**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes